US03975443
Formic acid 98/100% (13.8 g. 0.3 mole) and acetic anhydride (30.6 g. 0.3 mole) were mixed without cooling and kept at room temp. for 1 hr. 1-(1-methylaminomethylcyclohexyl) piperidine (4.2 g. 0.02 mole) was dissolved in formic acid (15 ml) and the formylating agent (25 ml) added slowly. This produced effervescence and a rise in temp. to 60°. The mixture was allowed to stand at room temp. overnight and the solvents then evaporated under reduced pressure to yield a viscous, amber oil (3.79 g. 80%) which crystallised on cooling and gave colourless prisms of 1-(N-formyl-1-methylaminomethylcyclohexyl) piperidine m.p. 94° (from light petroleum b.p. 60°-80°).

reactant | acetic anhydride | 0.3 mole, 30.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(1-methylaminomethylcyclohexyl) piperidine | 0.02 mole, 4.2 g | CNCC1(CCCCC1)N1CCCCC1 | C13H26N2
solvent | formic acid | 15 ml | C(=O)O | CH2O2
product | 1-(N-formyl-1-methylaminomethylcyclohexyl) piperidine | C(=O)N(C)CC1(CCCCC1)N1CCCCC1 | C14H26N2O
